US06015821
1,3-Dicyclohexylcarbodiimide (97 g, 0.49 mol) and 4-(N,N-dimethylamino)pyridine (65 g, 0.53 mol) in methylene chloride (800 ml) were added with stirring to a solution of nicotinic acid (60 g, 0.49 mol) and z,z,z-octadeca-6,9,12-trienol (107 g, 0.41 mol) in methylene chloride (1200 ml). The progress of the reaction was monitored by tlc. On completion, the reaction mixture was filtered and the organic layer washed with 2M hydrochloric acid (500 ml) and water (3×500 ml), dried with magnesium sulphate and concentrated under reduced pressure. Purification by dry column chromatography using a gradient of ethyl acetate in hexane yielded z,z,z-octadeca-6,9,12-trienyl nicotinate as a pale yellow oil in 91% yield.

reactant | 1,3-Dicyclohexylcarbodiimide | 0.49 mol, 97 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | nicotinic acid | 0.49 mol, 60 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | z,z,z-octadeca-6,9,12-trienol | 0.41 mol, 107 g | C(CCCC\C=C/C\C=C/C\C=C/CCCCC)O | C18H32O
catalyst | 4-(N,N-dimethylamino)pyridine | 0.53 mol, 65 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1200 ml | C(Cl)Cl | CH2Cl2
product | z,z,z-octadeca-6,9,12-trienyl nicotinate | 91% yield | C(C1=CN=CC=C1)(=O)OCCCCC\C=C/C\C=C/C\C=C/CCCCC | C24H35NO2
